US07888376B2
(S)-methyl 3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-((R)-2-methylpropan-2-ylsulfinamido)propanoate (0.10 g, 0.20 mmol) was dissolved in 8N NH3 solution in ethylene glycol (1 mL) in a microwave vial. The reaction mixture was heated to 180° C. for 300 sec, the pressure was cautiously vented and the reaction mixture purified directly by prep HPLC (YMC ODSA30×100 mm, 0-100% over 10 min, MeOH/H2O/0.1% TFA). (S)-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-((R)-2-methylpropan-2-ylsulfinamido)propanamide was isolated as a white solid (0.041 g, 41% yield) LCMS: 1.85 min [M+1] 466.1 (2 min gradient, MeOH/H2O 0.1% TFA). Starting material was also recovered (0.055 g, 55% recovered yield).

reactant | (S)-methyl 3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-((R)-2-methylpropan-2-ylsulfinamido)propanoate | 0.20 mmol, 0.10 g | ClC=1C=CC(=NC1)[C@@](CC(=O)OC)(N[S@](=O)C(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)F | C20H21ClF4N2O3S
reactant | NH3 | 8N | N | H3N
solvent | ethylene glycol | 1 mL | C(CO)O | C2H6O2
product | (S)-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl)-3-((R)-2-methylpropan-2-ylsulfinamido)propanamide | ClC=1C=CC(=NC1)[C@@](CC(=O)N)(N[S@](=O)C(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)F | C19H20ClF4N3O2S
